US05081123
b. 4-Cyano-1-ethoxalylamino-2-nitronaphthalene
A solution of 4.2 g (15.7 mmol) 4-cyano-1-ethoxalylaminonaphthalene in 125 ml glacial acetic acid was added 125 ml acetic anhydride. At 15° C. a solution of 12 ml 100% nitric acid in 60 ml glacial acetic acid was added dropwise. Stirring was continued at 25° C. for 24 h and then at 50° C. for 1.5 h. The reaction mixture was poured into 500 ml ice-water to give 3.5 g (72%). M.p. 178.0° C.

reactant | 4-cyano-1-ethoxalylaminonaphthalene | 15.7 mmol, 4.2 g | C(#N)C1=CC=C(C2=CC=CC=C12)NC(=O)C(=O)OCC | C15H12N2O3
reactant | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4-Cyano-1-ethoxalylamino-2-nitronaphthalene | C(#N)C1=CC(=C(C2=CC=CC=C12)NC(=O)C(=O)OCC)[N+](=O)[O-] | C15H11N3O5
